US04110351
A mixture of 30.0 g (0.157 mole) of 5-bromofuroic acid, 29.4 g (0.157 mole) of dodecanol and 500 ml of pyridine is flushed with nitrogen and stirred at room temperature after which 7.55 g (0.314 mole) of sodium hydride is added. The mixture is heated to 100° C for 20 hours, then refluxed 1 hour after which 2.0 g of cuprous chloride is added. The mixture is refluxed with stirring under nitrogen for 20 hours, then poured into an ice-water-hydrochloric acid mixture with stirring and filtered. The resulting oily precipitate is extracted into ether, washed with 5% hydrochloric acid solution, water and salt water, dried over sodium sulfate, filtered, and evaporated on a steam bath replacing the ether with hexane. The solid obtained is recrystallized from methanol to give 5-dodecyloxy-2-furoic acid, M.P. 122°-123° C.

reactant | 5-bromofuroic acid | 0.157 mole, 30.0 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | dodecanol | 0.157 mole, 29.4 g | C(CCCCCCCCCCC)O | C12H26O
reactant | sodium hydride | 0.314 mole, 7.55 g | [H-].[Na+]
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 5-dodecyloxy-2-furoic acid | C(CCCCCCCCCCC)OC1=CC=C(O1)C(=O)O | C17H28O4
